US07915411B2
1-Chloro-2-nitro-4-(1-phenyl-ethoxy)-benzene
A solution of 4-chloro-3-nitro-phenol (2.0 g, 11.5 mmol), 1-bromoethyl-benzene (3.2 g, 17.3 mmol), sodium carbonate (1.80 g, 17.0 mmol) in acetone (20 ml) was heated at reflux for 18 hours. The reaction mixture was cooled, the solids filtered off and the filtrate concentrated to a thick syrup under vacuum. The residue was dissolved in ether (80 ml) and washed with water (20 ml) and 30% KOH solution (2×20 ml) and the solvent is concentrated under vacuum leaving an oily residue as the title compound (3.01 g, 94%).

reactant | 4-chloro-3-nitro-phenol | 11.5 mmol, 2.0 g | ClC1=C(C=C(C=C1)O)[N+](=O)[O-] | C6H4ClNO3
reactant | 1-bromoethyl-benzene | 17.3 mmol, 3.2 g | BrC(C)C1=CC=CC=C1 | C8H9Br
reactant | sodium carbonate | 17.0 mmol, 1.80 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 1-Chloro-2-nitro-4-(1-phenyl-ethoxy)-benzene | 3.01 g, 94% | ClC1=C(C=C(C=C1)OC(C)C1=CC=CC=C1)[N+](=O)[O-] | C14H12ClNO3
